US03989707
A mixture of 20 parts of methyl 4-(5-chloro-1,3-dihydro-2-oxo-2H-benzimidazol-1-yl)-2-methyl-1-piperidinecarboxylate, 20 parts of potassium hydroxide, 160 parts of 2-propanol and 3 parts of water is stirred and refluxed for 36 hours. The reaction mixture is evaporated and water is added to the residue. The whole is acidified with a hydrochloric acid solution. Then it is basified with ammonium hydroxide and the free base is extracted with trichloromethane. The extract is dried, filtered and evaporated. The residue is converted into the hydrochloride salt in 2-propanol. The salt is filtered off and dried, yielding 5-chloro-1,3-dihydro-1-(2-methyl-4-piperidinyl)-2H-benzimidazol-2-one hydrochloride.

reactant | methyl 4-(5-chloro-1,3-dihydro-2-oxo-2H-benzimidazol-1-yl)-2-methyl-1-piperidinecarboxylate | ClC1=CC2=C(N(C(N2)=O)C2CC(N(CC2)C(=O)OC)C)C=C1 | C15H18ClN3O3
reactant | potassium hydroxide | [OH-].[K+]
reactant | 2-propanol | CC(C)O | C3H8O
solvent | water | O | H2O
product | 5-chloro-1,3-dihydro-1-(2-methyl-4-piperidinyl)-2H-benzimidazol-2-one hydrochloride | Cl.ClC1=CC2=C(N(C(N2)=O)C2CC(NCC2)C)C=C1 | InChI=1S/C13H16ClN3O.ClH/c1-8-6-10(4-5-15-8)17-12-3-2-9(14)7-11(12)16-13(17)18;/h2-3,7-8,10,15H,4-6H2,1H3,(H,16,18);1H
